US05760054
A mixture of 0.060 g of sodium hydride, 60% oil dispersion, 10 mL of DMF, 0.086 mL of iodomethane, and 0.4 g of 1,3-dihydro-1-(1-tert-butyloxycarbonylpiperidin-4-yl)-2H-benzimidazol-2-one was stirred for 12 h, then partitioned between 100 mL of chloroform and 50 mL of water. The chloroform extracts dried over MgSO4, and concentrated under reduced pressure. Trituration with hexane gave 0.38 g of 1,3-dihydro-1-(1-tert-butyloxycarbonylpiperidin-4-yl)-3-methyl-2H-benzimidazol-2-one as a crystalline solid: 1H NMR (300 MHz, CDCl3) 7.13-7.03 (m, 3H), 6.98 (d, 1H), 4.5 (m, 1H), 4.3 (br m, 2H), 3.4 (s, 3H), 2.85 (m, 4H), 2.3 (m, 2H), 1.8 (d, 2H), 1.5 (s, 91H).

reactant | sodium hydride | 0.060 g | [H-].[Na+]
reactant | iodomethane | 0.086 mL | IC | CH3I
reactant | 1,3-dihydro-1-(1-tert-butyloxycarbonylpiperidin-4-yl)-2H-benzimidazol-2-one | 0.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C17H23N3O3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1,3-dihydro-1-(1-tert-butyloxycarbonylpiperidin-4-yl)-3-methyl-2H-benzimidazol-2-one | 0.38 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(N(C2=C1C=CC=C2)C)=O | C18H25N3O3
